US08975411B2
Synthesis of 2-(pyridin-2-yl)imidazo[1,2-a]pyrimidine hydrobromide
2-Bromo-1-pyridin-2-ylethanone (66.1 g; 330 mmol) was dissolved in ethanol (330 mL), 2-aminopyrimidine (31.5 g; 330 mmol) was added thereto, and the mixture was stirred for 17 hours at 70° C. The precipitated crystals were collected by filtration, washed with acetone, and then dried to give 70.7 g of the title compound (yield 77%).

reactant | 2-Bromo-1-pyridin-2-ylethanone | 330 mmol, 66.1 g | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
reactant | 2-aminopyrimidine | 330 mmol, 31.5 g | NC1=NC=CC=N1 | C4H5N3
solvent | ethanol | 330 mL | C(C)O | C2H6O
product | 2-(pyridin-2-yl)imidazo[1,2-a]pyrimidine hydrobromide | 70.7 g, yield 77% | Br.N1=C(C=CC=C1)C=1N=C2N(C=CC=N2)C1 | InChI=1S/C11H8N4.BrH/c1-2-5-12-9(4-1)10-8-15-7-3-6-13-11(15)14-10;/h1-8H;1H
